US07544838B2
4-Hydroxy-benzoic acid (2-chloro-3-trifluoromethyl-benzylidene)-hydrazide (DY165)
To a solution of 4-hydroxy-benzoic acid hydrazide (0.3 g, 0.002 mol) and 2-chloro-3-(trifluoromethyl)benzaldehyde (0.42 g, 0.002 mol) in abs. EtOH (10 mL) was added 1 drop of acetic acid. The reaction mixture was refluxed for 4 hours. The reaction mixture was cooling to room temperature and concentrated to remove solvent. The resulting residue was solidified by EtOAc to give white solid 0.64 g, in 93% yield, mp: 261.5° C. 1H NMR (CD3OD) δ 8.89 (s, 1H), 8.51 (d, 1H), 7.85 (m, 3H), 7.56 (t, 1H), 6.89 (d, 2H). 13C NMR (CDCl3) δ 166.9, 163.1, 144.3, 135.7, 132.8, 132.5, 131.0, 130.3, 130.1, 128.5, 125.4, 124.3, 123.2, 116.4. Anal. Calcd for C15H10ClF3N2O2 ·½H2O: C, 51.22; H, 2.86; N, 7.96; Cl, 10.08; F, 16.20. Found: C, 51.17; H, 3.04; N, 7.53; Cl, 10.25; F, 15.93.

reactant | 4-hydroxy-benzoic acid hydrazide | 0.002 mol, 0.3 g | OC1=CC=C(C(=O)NN)C=C1 | C7H8N2O2
reactant | 2-chloro-3-(trifluoromethyl)benzaldehyde | 0.002 mol, 0.42 g | ClC1=C(C=O)C=CC=C1C(F)(F)F | C8H4ClF3O
catalyst | acetic acid | 1 drop | C(C)(=O)O | C2H4O2
solvent | EtOH | 10 mL | CCO | C2H6O
product | 4-Hydroxy-benzoic acid (2-chloro-3-trifluoromethyl-benzylidene)-hydrazide | 0.64 g, 93% yield | ClC1=C(C=NNC(C2=CC=C(C=C2)O)=O)C=CC=C1C(F)(F)F | C15H10ClF3N2O2
